US09029536B2
E) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzo[d]imidazole
To a mixture of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (8.81 g), KOAc (6.81 g) and 2-(4-bromophenoxy)-1H-benzo[d]imidazole (6.69 g) in THF (180 mL) and DMSO (9 mL) was added Pd(dppf)2Cl2 dichloromethane complex (0.945 g, 1.16 mmol). The mixture was stirred at 80° C. under Ar atmosphere for 15 h. The mixture was poured into water and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (THF/hexane) and recrystallized from hexane/THF to give the title compound (1.32 g).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.81 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 6.81 g | CC(=O)[O-].[K+]
reactant | 2-(4-bromophenoxy)-1H-benzo[d]imidazole | 6.69 g | BrC1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1 | C13H9BrN2O
reactant | water | O | H2O
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | DMSO | 9 mL | CS(=O)C | C2H6OS
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzo[d]imidazole | 1.32 g | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1)C | C19H21BN2O3
